US07560569B2
(2S,4S)-1-[[N-Benzyloxycarbonyl-N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (91.5 mg) and 1-hydroxybenzotriazole (45.9 mg) were dissolved in N,N-dimethylformamide (2.0 mL). While the solution was chilled in an ice bath, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (95.9 mg) was added and the mixture was allowed to warm to room temperature and was stirred for 15 hours. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (eluant:ethyl acetate) to give (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (92.0 mg).

reactant | (2S,4S)-1-[[N-Benzyloxycarbonyl-N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 91.5 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)O)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C24H28FN3O5
reactant | 1-hydroxybenzotriazole | 45.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 95.9 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 92.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
